US06734302B2
N,N-dimethyl-2-ethoxy-4-iodo-aniline (0.75 g, 2.58 mmol) was dissolved in DMF (4 mL). Zinc cyanide (0.18 g, 1.54 mmol) was added. Argon was passed through the mixture for 10 min. Tetrakis(triphenylphosphine)palladium (148 mg, 0.13 mmol) was added and the mixture was heated at 110° C. for 24 h. The reaction mixture was cooled and poured into water. The mixture was extracted with ethyl acetate, washed with brine and dried over magnesium sulfate. Evaporation of the solvents and chromatography of the residue over silica gel using 20% ethyl acetate in hexanes gave N,N-dimethyl-2-ethoxy-4-cyano-aniline (187 mg, 38%).

reactant | N,N-dimethyl-2-ethoxy-4-iodo-aniline | 2.58 mmol, 0.75 g | CN(C1=C(C=C(C=C1)I)OCC)C | C10H14INO
reactant | water | O | H2O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 1.54 mmol, 0.18 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium | 0.13 mmol, 148 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N-dimethyl-2-ethoxy-4-cyano-aniline | 187 mg, 38% | CN(C1=C(C=C(C=C1)C#N)OCC)C | C11H14N2O
